US06506911B2
1,6-Dimethyl-2-(1-methoxyethyl)-3-benzyloxy-pyridin-4(1H)-one hydrochloride
The title compound was prepared by the method outlined for 1,6-dimethyl-2-methoxy-methyl-3-benzyloxy-pyridin-4(1H)-one hydrochloride, using 3.56 g (13 mmol, 1 eq.) of 2-(1-methoxyethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one to yield the pure product 2.64 g (62.8%) after recrystallisation from methanol/diethyl ether, as a white crystalline solid m.p. 117-119° C.

reactant | 1,6-dimethyl-2-methoxy-methyl-3-benzyloxy-pyridin-4(1H)-one hydrochloride | Cl.CN1C(=C(C(C(=C1C)C)=O)OCC1=CC=CC=C1)OC
reactant | 2-(1-methoxyethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | 13 mmol, 3.56 g, 1 eq. | COC(C)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C16H18O4
product | 1,6-Dimethyl-2-(1-methoxyethyl)-3-benzyloxy-pyridin-4(1H)-one hydrochloride | Cl.CN1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)C(C)OC | InChI=1S/C17H21NO3.ClH/c1-12-10-15(19)17(16(18(12)3)13(2)20-4)21-11-14-8-6-5-7-9-14;/h5-10,13H,11H2,1-4H3;1H
